US08372842B2
1-(Chloromethyl)-4-methoxybenzene (0.219 mL, 1.61 mmol) was added to tert-butyl 4-(3-iodo-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.575 g, 1.34 mmol) and K2CO3 (0.222 g, 1.61 mmol) in DMF (10 mL). The reaction was stirred at room temperature for 2 hours. Ether (30 mL) and water (10 mL) were added. The organic layer was separated, washed with brine, and dried over sodium sulfate. After removal of the solvent, the resulting residue was purified by chromatography (hexane:ethyl acetate, 3:1) to give tert-butyl 4-(3-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.59 g, 80%) as a solid. MS APCI (+) m/z 549.7 detected. 1H NMR (400 Hz, DMSO-d6) δ 8.37 (d, J=5.2 Hz, 1H), 7.21 (d, J=8.4 Hz, 2H), 6.87 (d, J=8.4 Hz, 2H), 6.68 (d, J=5.2 Hz, 1H), 5.53 (s, 2H), 3.70 (s, 3H), 3.62 (m, 4H), 3.19 (m, 4H), 1.43 (s, 9H).

reactant | 1-(Chloromethyl)-4-methoxybenzene | 1.61 mmol, 0.219 mL | ClCC1=CC=C(C=C1)OC | C8H9ClO
reactant | tert-butyl 4-(3-iodo-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 1.34 mmol, 0.575 g | IC1=NNC2=NC=CC(=C21)N2CCN(CC2)C(=O)OC(C)(C)C | C15H20IN5O2
reactant | K2CO3 | 1.61 mmol, 0.222 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Ether | 30 mL | CCOCC | C4H10O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | tert-butyl 4-(3-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.59 g, 80% | IC1=NN(C2=NC=CC(=C21)N2CCN(CC2)C(=O)OC(C)(C)C)CC2=CC=C(C=C2)OC | C23H28IN5O3
